US04880809
A mixture of 9-oxo-2-fluorene carboxylic acid (1 g), toluene (10 ml), and thionyl chloride (3 ml) is heated for one hour under reflux. The mixture is evaporated to dryness. To the residue is added toluene (10 ml), and the mixture is again evaporated to dryness. Thus-obtained yellow powder is mixed with toluene (50 ml), and the mixture is added to a mixture of 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1.8 g), triethylamine (4.3 g) and N,N-dimethylformamide (20 ml). The resulting mixture is left standing at room temperature for 30 minutes and treated with water (300 ml). The whole mixture is extracted with ethyl acetate (500 ml). The organic layer is washed with water, dried and concentrated to afford 1-(9-oxo-2-fluorenylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine (1.1 g) as pale yellow crystals, m.p. 166°-168° C.

reactant | 9-oxo-2-fluorene carboxylic acid | 1 g | O=C1C2=CC=CC=C2C=2C=CC(=CC12)C(=O)O | C14H8O3
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 1.8 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
solvent | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 4.3 g | C(C)N(CC)CC | C6H15N
product | 1-(9-oxo-2-fluorenylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine | 1.1 g | O=C1C2=CC=CC=C2C=2C=CC(=CC12)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | C28H28N2O5
